US05314900
Step 1: 2-hydroxyphenylsulfonamide
To a solution of chlorosulfonylisocyanate (Aldrich; 2 mL) in 76 mL MeNO2 at 0° C. was added phenol (2 g) in 10 mL MeNO2. The solution was heated at 45° C. for 30 minutes then AlCl3 (3.46 g) was added and the temperature raised to 100° C. for 30 minutes. The reaction mixture was poured onto ice/H2O, extracted (2× Et2O), and washed with H2O. The organic layer was extracted with K2CO3 (saturated solution) and the aqueous phase then acidified with 1N HCl. Extraction of the aqueous phase with Et2O followed by drying (MgSO4) and evaporation yielded a black oil. Purification of this oil by chromatography (hexane/EtOAc 1:1) gave the title compound as a white solid.

reactant | chlorosulfonylisocyanate | 2 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | phenol | 2 g | C1(=CC=CC=C1)O | C6H6O
reactant | AlCl3 | 3.46 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | MeNO2 | 76 mL | C[N+](=O)[O-] | CH3NO2
solvent | MeNO2 | 10 mL | C[N+](=O)[O-] | CH3NO2
product | 2-hydroxyphenylsulfonamide | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
